US09216980B2
Step 3: Trifluoromethanesulfonic acid 3-chloro-5-methoxy-4-piperidin-1-ylmethylphenyl ester
To a stirred solution of 3-chloro-5-methoxy-4-piperidin-1-ylmethylphenol (223 mg, 0.87 mmol) and pyridine (0.28 mL, 3.5 mmol) in DCM (10 mL) at −20° C. was added trifluoromethanesulfonyl chloride (0.29 mL, 1.7 mmol). After the addition was complete the reaction mixture was allowed to warm to ambient temperature then diluted with DCM (20 mL) then washed with water (10 mL). The organic phase was separated, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford an oil that was purified by flash chromatography (silica, 12 g column, ISCO, 0-100% ethyl acetate in cyclohexane) to afford the title compound as a red oil (341 mg, 73%). 1H NMR (CDCl3, 300 MHz): 7.06 (d, J=2.3 Hz, 1H), 6.85 (d, J=2.3 Hz, 1H), 4.40 (s, 2H), 4.05 (s, 3H), 3.72-3.42 (m, 1H), 3.06-2.72 (m, 1H), 2.23-1.75 (m, 4H), 1.73-1.36 (m, 4H).

reactant | 3-chloro-5-methoxy-4-piperidin-1-ylmethylphenol | 0.87 mmol, 223 mg | ClC=1C=C(C=C(C1CN1CCCCC1)OC)O | C13H18ClNO2
reactant | pyridine | 3.5 mmol, 0.28 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonyl chloride | 1.7 mmol, 0.29 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 3-chloro-5-methoxy-4-piperidin-1-ylmethylphenyl ester | 341 mg, 73% | ClC=1C=C(C=C(C1CN1CCCCC1)OC)OS(=O)(=O)C(F)(F)F | C14H17ClF3NO4S
